US05958942
ii) Synthesis of 1,2-dihydro-3-methyl-1-[3-(trifluoromethanesulfonamido)propan-1-yl]-1,4,7b-triazacyclopent[cd]inden-2-one-hydrochloride
To a suspension of 866 mg (2.39 mmol) of 1,2-dihydro-3-methyl-1-[3-(trifluoromethanesulfonamido)propan-1-yl]-1,4,7b-triazacyclopent[cd]inden-2-one in 20 ml of methanol was added 0.24 ml of conc. HCl. The solvent was then distilled off. To the residue were added ethanol, acetone and ether. The resulting solid was washed with ether and, then dried to give 844 mg of the desired compound (88.6%, pale yellow solid), m.p.145.0-146° C.

reactant | 1,2-dihydro-3-methyl-1-[3-(trifluoromethanesulfonamido)propan-1-yl]-1,4,7b-triazacyclopent[cd]inden-2-one | 2.39 mmol, 866 mg | CC=1N=C2N3C1C(N(C3=CC=C2)CCCNS(=O)(=O)C(F)(F)F)=O | C13H13F3N4O3S
reactant | HCl | 0.24 ml | Cl | ClH
solvent | methanol | 20 ml | CO | CH4O
product | 1,2-dihydro-3-methyl-1-[3-(trifluoromethanesulfonamido)propan-1-yl]-1,4,7b-triazacyclopent[cd]inden-2-one-hydrochloride | 844 mg, 88.6% | Cl.CC=1N=C2N3C1C(N(C3=CC=C2)CCCNS(=O)(=O)C(F)(F)F)=O | InChI=1S/C13H13F3N4O3S.ClH/c1-8-11-12(21)19(10-5-2-4-9(18-8)20(10)11)7-3-6-17-24(22,23)13(14,15)16;/h2,4-5,17H,3,6-7H2,1H3;1H
